US07557114B2
(d) 5-Iodo-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A3(c) from 5-iodo-6-trifluoromethyl-2,3-dihydro-1H-isoindole and di-tert-butyl dicarbonate. White solid. MS (m/e): 358.0 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-iodo-6-trifluoromethyl-2,3-dihydro-1H-isoindole | IC=1C=C2CNCC2=CC1C(F)(F)F | C9H7F3IN
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 5-Iodo-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)I)C(F)(F)F | C14H15F3INO2
